US04952587
(c) 4-[2-(1-Methyindol-3-yl)-1,3,4-oxadiazol-5-yl]-1-methylpyridinium iodide
4-[2-(1-methylindol-3-yl)-1,3,4-oxadiazol-3-yl]pyridine (50 mg) was dissolved in dry acetone (10 ml), methyl iodide (127 mg) was then added, and the resulting solution heated at reflux for twenty four hours under a dry nitrogen atmosphere. The solution was allowed to cool to room temperature and the yellow solid isolated by filtration. Recrystallisation from acetone afforded the title compound (70 mg); m.p. 290° C. (dec); Found: C, 47.85; H, 3.56; N, 13.12; C17N16N4O15I requires C, 47.79; H, 3.77; N, 13.11%; δH (360 MHz, DMSO-d6) 3.98 (3H, s, N--CH3), 4.43 (3H, s, +N--CH3), 7.38 (2H, brm, H-5,6), 7.68 (1H, brm, H-4), 8.24 (1H, brm, H-7), 8.49 (1H, s, H-2), 8.70 (2H, d, J=8.4 Hz, CH=CH--N), 9.18 (2H, d, J=8.4 Hz, CH=CH--N); m/z (M+ free base 60%,) 276 (60), 158 (100), 127 (20), 103 (10), 77 (10).

reactant | 4-[2-(1-methylindol-3-yl)-1,3,4-oxadiazol-3-yl]pyridine | 50 mg | CN1C=C(C2=CC=CC=C12)C1OC=NN1C1=CC=NC=C1 | C16H14N4O
reactant | methyl iodide | 127 mg | CI | CH3I
reactant | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-[2-(1-Methyindol-3-yl)-1,3,4-oxadiazol-5-yl]-1-methylpyridinium iodide | 70 mg | [I-].CN1C=C(C2=CC=CC=C12)C=1OC(=NN1)C1=CC=[N+](C=C1)C | InChI=1S/C17H15N4O.HI/c1-20-9-7-12(8-10-20)16-18-19-17(22-16)14-11-21(2)15-6-4-3-5-13(14)15;/h3-11H,1-2H3;1H/q+1;/p-1
